US08912169B2
Step 3: 3-[2-[2-(4-Aminomethyl-cyclohexyl)-acetylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester
A solution of 3-[2-{2-[4-(Benzyloxycarbonylamino-methyl)-cyclohexyl]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester (1.56 g, 2.18 mmol) in MeOH (22 mL) was purged with Argon for 5 minutes. Palladium on carbon (10%, 0.153 g) was added, flask evacuated, and the reaction stirred under hydrogen atmosphere for 6.5 hr. The reaction was filtered through a Celite-plugged filter frit, washed with MeOH and DCM, and concentrated to provide 1.29 g of crude product that was carried to the next step without purification. ESI-MS m/z 583 (MH)+.

reactant | 3-[2-{2-[4-(Benzyloxycarbonylamino-methyl)-cyclohexyl]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | 2.18 mmol, 1.56 g | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(CC3CCC(CC3)CNC(=O)OCC3=CC=CC=C3)=O)OC)=O | C41H57BN2O8
solvent | MeOH | 22 mL | CO | CH4O
catalyst | Palladium on carbon | 0.153 g | [Pd] | Pd
product | 3-[2-[2-(4-Aminomethyl-cyclohexyl)-acetylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | 1.29 g | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(CC3CCC(CC3)CN)=O)OC)=O | C33H51BN2O6
